US07812043B2
3-{2-[(1-Cyclopropylmethyl-6-trifluoromethyl-1H-indole-3-carbonyl)-amino]-thiazol-5-ylsulfanyl}-propionic acid
3-{2-[(1-Cyclopropylmethyl-6-trifluoromethyl-1H-indole-3-carbonyl)-amino]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester was hydrolysed according to the procedure given in the procedure for the synthesis of {2-[(1-cyclopropylmethyl-6-fluoro-1H-indole-3-carbonyl)-amino]-thiazol4-ylsulfanyl}-acetic acid

reactant | 3-{2-[(1-Cyclopropylmethyl-6-trifluoromethyl-1H-indole-3-carbonyl)-amino]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester | C(C)OC(CCSC1=CN=C(S1)NC(=O)C1=CN(C2=CC(=CC=C12)C(F)(F)F)CC1CC1)=O | C22H22F3N3O3S2
reactant | {2-[(1-cyclopropylmethyl-6-fluoro-1H-indole-3-carbonyl)-amino]-thiazol4-ylsulfanyl}-acetic acid | C1(CC1)CN1C=C(C2=CC=C(C=C12)F)C(=O)NC=1SC=C(N1)SCC(=O)O | C18H16FN3O3S2
product | 3-{2-[(1-Cyclopropylmethyl-6-trifluoromethyl-1H-indole-3-carbonyl)-amino]-thiazol-5-ylsulfanyl}-propionic acid | C1(CC1)CN1C=C(C2=CC=C(C=C12)C(F)(F)F)C(=O)NC=1SC(=CN1)SCCC(=O)O | C20H18F3N3O3S2
